US05650410
A mixture of ethyl 2-chloromethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate (4.0 g), diethylamine (1.28 g) and methanol (45 ml) was stirred at room temperature for 4 days. The reaction mixture was poured into water and extracted with dichloromethane. The dichloromethane layer was washed with water and dried over magnesium sulfate, and the solvent was evaporated. The residue was subjected to column chromatography on silica gel. The fractions eluted with ethyl acetate gave ethyl 2-(N,N-diethylaminomethyl)-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate (0.51 g, 18%). This compound was recrystallized from ethyl acetate-hexane. Colorless prisms, mp. 130°-131° C.

reactant | ethyl 2-chloromethyl-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate | 4.0 g | ClCC1=NC2=CC(=C(C=C2C(=C1C(=O)OCC)C1=CC(=C(C=C1)OC)OC)OC)OC | C23H24ClNO6
reactant | diethylamine | 1.28 g | C(C)NCC | C4H11N
reactant | methanol | 45 ml | CO | CH4O
solvent | water | O | H2O
product | ethyl 2-(N,N-diethylaminomethyl)-4-(3,4-dimethoxyphenyl)-6,7-dimethoxyquinoline-3-carboxylate | 0.51 g, 18% | C(C)N(CC)CC1=NC2=CC(=C(C=C2C(=C1C(=O)OCC)C1=CC(=C(C=C1)OC)OC)OC)OC | C27H34N2O6
